US09340507B2
31a: 4-Cyclopropylsulfanyl-benzamide
Thionylchloride (342 μL, 4.7 mmol) is added to a solution of 4-cyclopropylsulfanyl-benzoic acid (prepared as described in WO07003960, 190 mg, 0.98 mmol) in dichloro-methane (1.9 mL). The mixture is heated at reflux for 30 min and concentrated under reduced pressure. The residue is treated with toluene, and all volatiles are evaporated. The residue is dissolved in chloroform (1.9 mL) and treated with concentrated aqueous ammonia (770 μL, 9.8 mmol). The mixture is stirred at room temperature for 1 h and then extracted with water. The organic layer is dried over Na2SO4 and concentrated under reduced pressure. Yield: 137 mg (72% of theory); ESI mass spectrum: [M+H]+=194; Retention time HPLC: 0.45 min (X011_S03).

reactant | Thionylchloride | 4.7 mmol, 342 μL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-cyclopropylsulfanyl-benzoic acid | 0.98 mmol, 190 mg | C1(CC1)SC1=CC=C(C(=O)O)C=C1 | C10H10O2S
reactant | ammonia | 9.8 mmol, 770 μL | N | H3N
solvent | dichloro-methane | 1.9 mL | ClCCl | CH2Cl2
product | 4-Cyclopropylsulfanyl-benzamide | C1(CC1)SC1=CC=C(C(=O)N)C=C1 | C10H11NOS
